US08703953B2
A solution of (E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)acrylaldehyde (2.85 g, 10.8 mmol) in dichloromethane (200 mL) containing anhydrous MgSO4 (16 g) was cooled in an ice bath with stirring. To the ice-cold solution was added 1,1-dimethylhydrazine (2.45 mL, 32.4 mmol) dropwise and the reaction mixture was allowed to warm up to ambient temperature and was stirred for 18 h. The volatiles were concentrated under reduced pressure and the residue was coevaporated sequentially with dichloromethane (50 mL), dichloroethane (50 mL) and heptane (50 mL). (E)-2-((E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)allylidene)-1,1-dimethylhydrazine (2.7 g, 8.79 mmol, 90% yield, 90% purity) was obtained as a yellow powder. 1H NMR (500 MHz, CDCl3) δ 7.39 (d, J=7.9 Hz, 1H), 7.20-7.10 (m, 3H), 7.00-6.86 (m, 2H), 4.75 (d, J=2.3 Hz, 2H), 2.95 (s, 6H), 2.58 (t, J=2.3 Hz, 1H); LCMS (Method B) (ESI) m/e 307.0, 309.0 Br pattern [(M+H)+, calcd for C14H15BrN2O 307.0].

reactant | (E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)acrylaldehyde | 10.8 mmol, 2.85 g | BrC1=CC(=C(C=C1)/C=C/C=O)OCC#C | C12H9BrO2
reactant | MgSO4 | 16 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 1,1-dimethylhydrazine | 32.4 mmol, 2.45 mL | CN(N)C | C2H8N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (E)-2-((E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)allylidene)-1,1-dimethylhydrazine | 8.79 mmol, 2.7 g, 90% yield | BrC1=CC(=C(C=C1)/C=C/C=N/N(C)C)OCC#C | C14H15BrN2O
